US04490374
3,4-Dimethoxyphenylisocyanate
Phosgene (4 eq) is bubbled at a moderate rate into a 3-neck flask containing a solution of 3,4-dimethoxyaniline (1 eq.), in benzene (2 liters). The flask is cooled in an ice bath for 15 minutes and then the solution is refluxed for 13/4 hours while excess phosgene is added. The reaction mixture is then refluxed overnight and the solvent removed under vacuum. Acetone is added and the solvent is again removed under vacuum leaving a dark brown oily residue which is distilled at 132°-134° C./0.6 mm. Yield: 22.5 g.

reactant | Phosgene | 4 eq | C(=O)(Cl)Cl | CCl2O
reactant | 3,4-dimethoxyaniline | 1 eq. | COC=1C=C(N)C=CC1OC | C8H11NO2
solvent | benzene | 2 liters | C1=CC=CC=C1 | C6H6
product | 3,4-Dimethoxyphenylisocyanate | COC=1C=C(C=CC1OC)N=C=O | C9H9NO3
